datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[C:31]([H:32])([H:33])[H:34]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[C:31]([H:32])([H:33])[H:34],0.0
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:10]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:6])[H:7].[H:5][O:10],1.146416
[C:0]([C:1]([S:2][H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:11].[c:18]1([H:24])[c:19]([H:25])[c:20]([H:26])[c:21]([H:27])[c:22]([H:28])[c:23]1[H:29]>>[C:0]([C:1]([S:2][H:12])([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:24])([H:9])([H:10])[H:11].[c:18]1[c:19]([H:25])[c:20]([H:26])[c:21]([H:27])[c:22]([H:28])[c:23]1[H:29],120.708
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([C:18]([H:29])([H:30])[H:31])[c:19]1[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]1[H:36])[H:28])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:17]([C:16]([C:15]([H:25])([H:26])[H:27])[H:28])([C:18]([H:29])([H:30])[H:31])[c:19]1[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]1[H:36])[H:8])([H:6])[H:7],84.0147
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29])[H:9],-5.77392
[C:0]([C:1]1([H:7])[C:2]([H:8])([H:9])[O:3][C:4]1([H:10])[H:11])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([H:8])[H:9])[H:7])([H:5])[H:6].[O:3]=[C:4]([H:10])[H:11],104.6
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:12]([O:13][H:15])[H:14]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])([H:8])[H:14])([H:5])([H:6])[H:7].[O:12][O:13][H:15],0.16736
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:8])[H:9].[H:7][O:21],23.028736
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[O:14][H:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][O:14][H:15],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:17])[H:6].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[H:18])([H:14])([H:15])[H:16],81.1696
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6]([C:7]([C:8](=[C:9]([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6](=[C:5]([H:10])[H:11])[H:12])([C:8](=[C:9]([H:15])[H:16])[H:14])[H:13],26.3592
[H:16].[O:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:8][H:16].[O:0][C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10],20.380264
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:7])([H:5])[H:6],49.4967
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[O:4])[H:11])([H:5])([H:6])[H:7].[O:12][O:13]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[O:4])[H:11])([H:6])[H:7].[H:5][O:12][O:13],30.29216
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:20])[H:21])[H:19])([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:17])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:20])[H:21])[H:19])[H:18])[H:16])([H:14])[H:15],9.6232
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18][O:19])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:19][O:18][C:17]([H:20])([H:21])[H:22],61.96504
